US07834051B2
rac-4-((6R,7R)-7-(tert-butyldimethylsilyloxy)-6-methyl-4-oxo-5-azaspiro[2.4]hept-5-yl)-2-chlorobenzonitrile
Using (6RS,7RS)-7-(tert-butyldimethylsilyloxy)-6-methyl-5-azaspiro[2.4]heptan-4-one (162 mg), 4-bromo-2-chlorobenzonitrile (157 mg), cesium carbonate (310 mg), tris(dibenzylideneacetone)dipalladium(0) (30 mg) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (75 mg), and in the same manner as in Reference Example 3, the title compound was 5 obtained as a colorless solid (yield: 140 mg, 56%).

reactant | (6RS,7RS)-7-(tert-butyldimethylsilyloxy)-6-methyl-5-azaspiro[2.4]heptan-4-one | 162 mg | [Si](C)(C)(C(C)(C)C)OC1C(NC(C12CC2)=O)C | C13H25NO2Si
reactant | 4-bromo-2-chlorobenzonitrile | 157 mg | BrC1=CC(=C(C#N)C=C1)Cl | C7H3BrClN
reactant | cesium carbonate | 310 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 75 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 30 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | rac-4-((6R,7R)-7-(tert-butyldimethylsilyloxy)-6-methyl-4-oxo-5-azaspiro[2.4]hept-5-yl)-2-chlorobenzonitrile | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@H](N(C(C12CC2)=O)C2=CC(=C(C#N)C=C2)Cl)C | C20H27ClN2O2Si
